Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Vicodin
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with history of depression, 
sigmoid
diverticulitis, rectal bleeding, who presented to ___
after an episode of chest pain at 9:30 AM on ___, found to
have troponin elevation to to 0.07 and PR prolongation on EKG 
and
transferred to ___ for further evaluation.

Patient was in her usual state of health until 9:30am when she
developed an episode of chest pain. Patient was sitting at her
desk at work with abrupt onset mid substernal chest pressure
radiating to back, and after a few minutes radiated up her neck
and had associated headache. Patient experienced anxiety during
and after the episode with lightheadedness, feeling shaky in the
knees, reportedly was white in the face after the episode.
Patient removed a tick (unidentified, unknown time of latch) 8
days ago, and another last night. No rashes, arthralgias,
constitutional symptoms. 

Symptoms resolved after approximately 10 minutes. Afterwards for
period of hours she felt generally weak and fatigued. She is
currently without complaint. Notably no HTN, HLD, DM, FH,
smoking, alc 2 drinks/week. Workup at outside hospital
significant for ECG with prolonged PR, troponin 0.07. CTA 
without
evidence of dissection or PE. Patient administered a loading 
dose
of heparin, ASA 324mg, and given 2 g ceftriaxone at outside
hospital for concern for Lyme carditis.

- In the ED, initial vitals were: T 97.7, HR 63, BP 117/79, RR
20, SpO2 98% RA 

- Exam was notable for:
Const: Comfortable
Eyes: No conjunctival injection
HENT: NCAT, Neck supple without meningismus. No JVD. 2+ radial
and DP pulses
CV: RRR, Warm, well-perfused extremities
RESP: CTAB, Unlabored respiratory effort
GI: soft, non-tender, non-distended
MSK: No gross deformities appreciated
Skin: Warm, dry. No rashes
Neuro: Alert, Speech fluent 
Psych: Appropriate mood and affect.

- Labs were notable for:
TropT: 0.07 -> 0.08

- The patient was given: ASA 324mg and IV Ceftriaxone 2g at 
___,
heparin gtt

On arrival to the floor, patient endorses the story outlined
above. Denies any current chest pain. No clear alleviating
factors when she had the chest pain earlier, including leaning
forward/backward. Described pain as both a stabbing and pressure
like pain. Does endorse history of chest pain which she has
described as being indigestion. Denies any recent illness like
symptoms except for nasal congestion. Denies any recent fevers,
chills, sore throat, or cough. Denies any weight gain, 
orthopnea,
PND, or lower extremity edema. 

 
Past Medical History:
Depression
 
Social History:
___
Family History:
No family history of MI or early cardiac death.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 2339 Temp: 98.2 PO BP: 103/61 R Lying HR: 61 
RR:
18 O2 sat: 96% O2 delivery: RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 98.6 F, BP 99/56, HR 78, RR 18, 95% RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:58PM BLOOD WBC-6.7 RBC-3.98 Hgb-12.5 Hct-37.7 MCV-95 
MCH-31.4 MCHC-33.2 RDW-12.2 RDWSD-42.6 Plt ___
___ 07:58PM BLOOD Neuts-33.2* ___ Monos-10.6 
Eos-3.9 Baso-0.3 Im ___ AbsNeut-2.23 AbsLymp-3.49 
AbsMono-0.71 AbsEos-0.26 AbsBaso-0.02
___ 07:58PM BLOOD ___ PTT-40.4* ___
___ 07:58PM BLOOD Glucose-83 UreaN-12 Creat-0.7 Na-139 
K-4.1 Cl-104 HCO3-23 AnGap-12
___ 07:58PM BLOOD CK(CPK)-376*
___ 07:58PM BLOOD CK-MB-19* MB Indx-5.1 proBNP-55
___ 07:58PM BLOOD cTropnT-0.08*
___ 04:13AM BLOOD CK-MB-15* MB Indx-5.2 cTropnT-0.08*
___ 10:10AM BLOOD CK-MB-13* cTropnT-0.08*

PERTINENT LABS:
===============
___ 05:22AM BLOOD %HbA1c-4.7 eAG-88
___ 04:13AM BLOOD Triglyc-73 HDL-65 CHOL/HD-2.3 LDLcalc-69
___ 10:10AM BLOOD CRP-1.9
___ 04:13 SED RATE 
Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          2                   < OR = 20 mm/h
___                                        

PERTINENT MICRO:
================
None

PERTINENT IMAGING:
==================
___ TTE:
CONCLUSION:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size.
There is normal regional and global left ventricular systolic 
function. Quantitative biplane left ventricular
ejection fraction is 62 %. There is no resting left ventricular 
outflow tract gradient. Tissue Doppler suggests
a normal left ventricular filling pressure (PCWP less than 
12mmHg). Normal right ventricular cavity size with
normal free wall motion. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter
for gender. The aortic arch diameter is normal. The aortic valve 
leaflets (3) appear structurally normal. There
is no aortic valve stenosis. There is trace aortic 
regurgitation. The mitral valve leaflets appear structurally
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation.
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic function.
No significant valvular pathology or pathologic flow identified. 
Normal estimated pulmonary artery
systolic pressure.

___ Stress echo:
CONCLUSION: Good functional exercise capacity for age and 
gender. No ischemic ECG changes
with no symptoms to achieved treadmill stress. No 2D 
echocardiographic evidence of inducible
ischemia to achieved workload. Normal pulmonary artery systolic 
pressure at rest. Normal resting
blood pressure with a normal blood pressure and a normal heart 
rate response to achieved
workload.

DISCHARGE LABS:
================
___ 06:20AM BLOOD WBC-5.3 RBC-4.11 Hgb-12.8 Hct-39.8 MCV-97 
MCH-31.1 MCHC-32.2 RDW-12.3 RDWSD-44.4 Plt ___
___ 06:20AM BLOOD Glucose-92 UreaN-11 Creat-0.7 Na-142 
K-5.0 Cl-105 HCO3-24 AnGap-13
___ 06:20AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.0

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with history of depression, 
sigmoid
diverticulitis, rectal bleeding, who presented to ___
after an episode of chest pain at 9:30 AM on ___, found to
have troponin elevation to 0.07 and PR prolongation on EKG and
transferred to ___ for further evaluation.

ACUTE ISSUES:
==============
# Chest pain:
# Troponin elevation:
# C/f NSTEMI:
Patient presented with chest pain radiating to back lasting 
___
minutes with troponin elevation to 0.07 -> 0.08 at ___, 
remained stable at 0.08 with downtrending MB at ___. EKG 
notable for
PR prolongation (uncertain of baseline) with PR 206 ms at 
discharge. CTA without evidence of PE or dissection. Etiology 
unclear. Patient without risk factors for ACS and presentation 
of chest pain occurred for first time while at rest. TTE and 
Exercise echo stress test were normal. This all makes ACS very 
unlikely. Other possible etiologies include myocarditis 
including lyme (recent tick exposure, PR prolongation) vs. viral 
(recent nasal congestion) or coronary vasospasm. Can also 
consider SCAD, though less likely given no abnormalities on TTE 
and does not necessarily fit demographic. Did not have any 
further episodes of chest pain inpatient. Her A1c and lipids 
were normal, as were her CRP and ESR. Lyme is still pending. She 
was initially started on ASA, statin, and heparin gtt, which 
were all discontinued when TTE and stress test resulted normal. 
She did also receive ceftriaxone 2g IV x1 at ___ to 
empirically treat Lyme, which was not continued at ___.

# First degree AV block:
Patient with prolonged PR interval, > 200 ms. ___ about
baseline. PR 206 ms at discharge. As noted above, recent tick 
exposure so ordered for Lyme Ab, which is still pending at the 
time of discharge.

CHRONIC/STABLE ISSUES:
======================
# Depression.
Continued home wellbutrin, citalopram.

TRANSITIONAL ISSUES:
====================
Discharge PR interval: 206 ms

[ ] Follow up Lyme Ab.
[ ] Please repeat cardiac enzymes at PCP ___ ___ to 
ensure resolution of elevation.
[ ] Can repeat EKG in-office to trend PR intervals and ensure no 
progression of heart block. Consider ongoing evaluation of PR 
prolongation if lyme antibody negative.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO QAM 
2. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 200 mg PO QAM  
2.  Citalopram 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Chest pain
-Troponin elevation
-First degree atrioventricular block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you had an episode of 
chest pain and the heart enzymes in your blood were a little 
high.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-Over time, the heart enzymes in your blood were stable to 
decreased.
-You were initially on a blood thinner (heparin) until the 
enzymes trended down.
-You had an ultrasound of your heart (echocardiogram) and stress 
test, both of which were normal, which is re-assuring.
-You did not have any further episodes of chest pain, so you 
were discharged home.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take your medications as prescribed.
-Please attend all follow-up appointments.
-If you have any additional episodes of chest pain, please go to 
the Emergency Room.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___